US04918080
(E)-3-(5-Methyl-1H-imidazol-4-yl)-1-(1-naphthalenyl)-2-propen-1-one maleate
A solution of (E)-3-[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-(1-naphthalenyl)-2-propen-1-one (1.0 g) in a mixture of water (10 ml), THF (10 ml) and acetic acid (10 ml) was heated at reflux under nitrogen for 1 h. The cooled reaction mixture was partitioned between ethyl acetate (100 ml; discarded) and 0.4N hydrochloric acid (2×75 ml). The combined acidic layers were basified with potassium carbonate (to pH8) and extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried and evaporated in vacuo to give the free base of the title compound (0.51 g) as a solid. This was dissolved in hot methanol (15 ml), and a solution of maleic acid (0.23 g) in methanol (2 ml) was added with stirring. Cooling precipitated the title compound (0.62 g), m.p. 170°-173° (decomp.).

reactant | (E)-3-[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-(1-naphthalenyl)-2-propen-1-one | 1.0 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)C1=CC=CC2=CC=CC=C12 | C36H28N2O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | (E)-3-(5-Methyl-1H-imidazol-4-yl)-1-(1-naphthalenyl)-2-propen-1-one maleate | 0.51 g | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)/C=C/C(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C17H14N2O.C4H4O4/c1-12-16(19-11-18-12)9-10-17(20)15-8-4-6-13-5-2-3-7-14(13)15;5-3(6)1-2-4(7)8/h2-11H,1H3,(H,18,19);1-2H,(H,5,6)(H,7,8)/b10-9+;2-1-
